US05153203
7-(1-t-Butoxycarbonyl-3-pyrrolidinyloxy)-1-cyclopropyl-6,8-difluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid (300 mg) was dissolved in 3 ml of DMF, followed by the addition of 32 mg of 55% sodium hydride under ice cooling. After the resultant mixture was stirred for 10 minutes, 72 mg of sodium methoxide was added. The mixture thus obtained was stirred further for 18 hours at room temperature. The reaction mixture was diluted with chloroform and then washed successively with 10% aq. citric acid solution and saturated saline. The organic layer was dried over anhydrous sodium sulfate and then concentrated to dryness, whereby 7-(1-t-butoxycarbonyl-3-pyrrolidinyloxy)-1-cyclopropyl-6-fluoro-8-methoxy-1,4-dihydro-4-oxoquinoline-3-carboxylic acid was obtained. It was used directly in the reaction of the next step without further purification.

reactant | 7-(1-t-Butoxycarbonyl-3-pyrrolidinyloxy)-1-cyclopropyl-6,8-difluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 300 mg | C(C)(C)(C)OC(=O)N1CC(CC1)OC1=C(C=C2C(C(=CN(C2=C1F)C1CC1)C(=O)O)=O)F | C22H24F2N2O6
reactant | sodium hydride | 32 mg | [H-].[Na+]
reactant | sodium methoxide | 72 mg | C[O-].[Na+]
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 7-(1-t-butoxycarbonyl-3-pyrrolidinyloxy)-1-cyclopropyl-6-fluoro-8-methoxy-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | C(C)(C)(C)OC(=O)N1CC(CC1)OC1=C(C=C2C(C(=CN(C2=C1OC)C1CC1)C(=O)O)=O)F | C23H27FN2O7
